US08669266B2
(ii) 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid
To a solution of 9.7 g of 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid ethyl ester in 200 ml of THF, 84 ml of a 1M aqueous sodium hydroxide solution was added and stirred for 16 h at RT. The reaction mixture was acidified with 1M hydrochloric acid to pH 1 to precipitate the product, which was then collected by filtration. The residue was co-distilled additional two times with toluene. After drying under reduced pressure the product was pure enough for the next reaction step. Yield: 7.7 g.

reactant | 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid ethyl ester | 9.7 g | C(C)OC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C | C13H13NO3
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid | OC1=CC(=NC2=CC(=CC=C12)C)C(=O)O | C11H9NO3
